US09079916B2
Step b: 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-benzylpyridin-4-yl)cyclopropane-carboxamide
To a 0.5 M solution of benzylzinc(II) bromide in THF (0.8 mL, 0.4 mmol) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (8 mg, 0.01 mmol) and the reaction was stirred under nitrogen for 20 minutes. 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-chloropyridin-4-yl)cyclopropanecarboxamide (32 mg, 0.10 mmol) was added and the reaction was irradiated in the microwave for 10 minutes at 150° C. The reaction was quenched with a saturated ammonium chloride solution (2 mL) and a saturated ethylenediamine tetraacetic acid disodium salt solution (2 mL). The mixture was stirred for 30 minutes before it was extracted with dichloromethane (3×4 mL). The organics were dried over Na2SO4 and evaporated. The crude product was dissolved in DMSO (1 mL) and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoracetic acid to yield the pure product (18 mg, 0.048 mmol, 48%). ESI-MS m/z calc. 372.1. Found 373.3 (M+1)+; retention time 2.44 minutes.

reactant | benzylzinc(II) bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | THF | 0.4 mmol, 0.8 mL | C1CCOC1 | C4H8O
reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-chloropyridin-4-yl)cyclopropanecarboxamide | 0.10 mmol, 32 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=NC=C2)Cl | C16H13ClN2O3
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.01 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-benzylpyridin-4-yl)cyclopropane-carboxamide | 0.048 mmol, 18 mg, 48% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=NC=C2)CC2=CC=CC=C2 | C23H20N2O3
